US09447114B2
A solution of 5-(1-hydroxy-3-methylbutyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (15 mg, 0.026 mmol) in concentrated HCl (1 mL) and MeOH (5 mL) was stirred at RT for 1 h. The reaction was concentrated to a residue which was purified by Prep HPLC to give 5-(1-hydroxy-3-methylbutyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (6 mg, 46.9% yield) as a white solid. 1H NMR (CDCl3) δ: 7.49 (t, J=8.0 Hz, 1H), 7.35 (d, J=7.7 Hz, 1H), 7.29 (d, J=8.4 Hz, 1H), 5.39 (d, J=11.9 Hz, 1H), 4.85-4.65 (m, 1H), 4.26 (t, J=6.1 Hz, 2H), 3.70-3.49 (m, 5H), 2.89 (s, 1H), 2.06-1.89 (m, 3H), 1.76 (dt, J=13.4, 6.6 Hz, 1H), 1.43-1.33 (m, 1H), 0.80 (dd, J=9.3 and 6.7 Hz, 6H). LCMS: MH+ 487 and TR=2.971 min.

reactant | 5-(1-hydroxy-3-methylbutyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.026 mmol, 15 mg | OC(CC(C)C)C1=C(SC=2N(C(N(C(C21)=O)CCCOC2OCCCC2)=O)C)C2=CC(=CC=C2)OC(F)(F)F | C27H33F3N2O6S
solvent | HCl | 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 5-(1-hydroxy-3-methylbutyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 6 mg, 46.9% yield | OC(CC(C)C)C1=C(SC=2N(C(N(C(C21)=O)CCCO)=O)C)C2=CC(=CC=C2)OC(F)(F)F | C22H25F3N2O5S
